US05580893
N-(2-Nitroxyethyl)-5-phenyl-4-bromo-3-isoxazolyloxyacetamide (Exemplified compound No. 33 )
Following a similar treatment to that in Example 2 and using 0.53 g of 5-phenyl-4-bromo-3-isoxazolyloxyacetic acid and 0.30 g of nitroxyethylamine nitrate, 0.44 g of the title compound was obtained as colorless needles (solvent for recrystallization; ethanol).

reactant | 5-phenyl-4-bromo-3-isoxazolyloxyacetic acid | 0.53 g | C1(=CC=CC=C1)C1=C(C(=NO1)OCC(=O)O)Br | C11H8BrNO4
reactant | nitroxyethylamine nitrate | 0.30 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
solvent | ethanol | C(C)O | C2H6O
product | N-(2-Nitroxyethyl)-5-phenyl-4-bromo-3-isoxazolyloxyacetamide | 0.44 g | O([N+](=O)[O-])CCNC(COC1=NOC(=C1Br)C1=CC=CC=C1)=O | C13H12BrN3O6
